datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][O+:10](C([H])C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21][H])[NH]CC.[Cl-]>>[Cl-].[H][O:10]C([H])C([H])C(C8=CC=CC=C8)[NH][C:20]([NH]CC)=[NH+:21][H] 21=20;20,10=10"
"CC[O:10][H].C[O+:21]=[C:20]([S]C)[S][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]([O:21]C)([S]C)[S][H] 10=20;20,21=21"
"[H][O:10]C(C)C([H])[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C7=CC=CC=C7 10=20;20,21=21"
"CCN([C:20](=[O:10])OC(C([O-:21])CC)C1=CC=CC=C1)[H]>>CCN([C:20]1(OC(C([O:21]1)CC)C1=CC=CC=C1)[O-:10])[H] 21=20;20,10=10"
"[H]N([C:20](=[O:10])OC(C([O-:21])CC)C)[H]>>[H]N([C:20]1(OC(C([O:21]1)CC)C)[O-:10])[H] 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]([O:21][H])([S]C8=CC=CC=C8)[S]C7=CC=CC=C7.[Cl-]>>[Cl-].C9=CC=CC=C9[O:10][H].[H][O+:21]=[C:20]([S]C8=CC=CC=C8)[S]C7=CC=CC=C7 21=20;20,10=10"
"[H][S+:10](C(CC)C([H])C([H])[S]1)[C:20]1([O:21][H])[S]C.[Cl-]>>[Cl-].[H][S:10]C(CC)C([H])C([H])[S][C:20]([S]C)=[O+:21][H] 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]([NH:21][H])([NH][H])[O]C.[Cl-]>>[Cl-].C9=CC=CC=C9[O:10][H].[H][NH+:21]=[C:20]([NH][H])[O]C 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[O]C(C7=CC=CC=C7)C(CC)[S]1.[Cl-]>>[Cl-].[Si](C)(C)(C)[O+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(CC)[S]2.[H][O:10][H] 21=20;20,10=10"
"[NH:10](C)C(C)/C([H])=C([C:20](OCC)=[O:21])/[H]>>[O-:21][C:20]1(OCC)[NH+:10](C)C(C)C([H])=C1[H] 10=20;20,21=21"
"[OH:10]C([H])C(C)C(O)C(O)[C:20]([H])=[OH+:21]>>[OH:21][C:20]1([H])C(O)C(O)C(C)C([H])[OH+:10]1 10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C(CC)[NH]1)[C:20]1([NH:21][H])[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(CC)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21][H] 21=20;20,10=10"
"CCN([C:20]([O-:10])(O[H])[Cl:21])CCCCCC>>CCN([C:20](=[O:10])O[H])CCCCCC.[Cl-:21] 10=20;20,21=21"
"C9=CC=CC=C9[S+:10]([H])[C:20]([O:21][H])([S][H])[S][H].[Cl-]>>[Cl-].C9=CC=CC=C9[S:10][H].[H][O+:21]=[C:20]([S][H])[S][H] 21=20;20,10=10"
"[Na][O+:21]([C:20]([O-:10])(O[H])OCC)C>>[Na][O:21]C.[C:20](=[O:10])(O[H])OCC 10=20;20,21=21"
"[H][NH+:10](C(CC)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]CC)[NH][H].[Cl-]>>[Cl-].[H][NH:10]C(CC)C(C8=CC=CC=C8)[NH][C:20]([NH][H])=[NH+:21]CC 21=20;20,10=10"
"[H][NH+:10](C(CC)C([H])C(C)[O]1)[C:20]1([NH:21]CC)[O]CC.[Cl-]>>[Cl-].[H][NH:10]C(CC)C([H])C(C)[O][C:20]([O]CC)=[NH+:21]CC 21=20;20,10=10"
"CC[O+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O]C8=CC=CC=C8)[O]C.[Cl-]>>[Cl-].CC[O:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O]C8=CC=CC=C8)[O]C 21=20;20,10=10"
"[H][O:10]C(CC)C([H])C(C8=CC=CC=C8)[NH][C:20]([NH][H])=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(CC)C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21][H])[NH][H] 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1[H])[H])C.[O-:21]C>>C1=CC=CC=C1C1C(C(O[C:20](N1[H])([O-:10])[O:21]C)[H])C 21=20;20,10=10"
"[OH:10]C([H])C([H])C(C)C([H])[C:20](OCC)=[OH+:21]>>[OH:21][C:20]1(OCC)C([H])C(C)C([H])C([H])[OH+:10]1 10=20;20,21=21"
"C[NH+:10]([H])[C:20]1([NH:21]C)[O][CH](C)C(C)[CH]([H])[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O][CH](C)[CH](C)C([H])[O]2.C[NH:10][H] 21=20;20,10=10"
"[H][O+:21]=[C:20]2[S][CH](C)[CH]([H])C(C8=CC=CC=C8)[O]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([O:21][H])[S][CH](C)C([H])[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](N1[H])([O-:10])[Cl:21])C1=CC=CC=C1)[H]>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1[H])C1=CC=CC=C1)[H].[Cl-:21] 10=20;20,21=21"
"C1=CC=CC=C1C1C(O[C:20](N1CC)([O-:10])[O:21]CC)CCCCCC>>C1=CC=CC=C1C1C(O[C:20](=[O:10])N1CC)CCCCCC.[O-:21]CC 10=20;20,21=21"
"[O:10]([Na])C(CCC)/C(O)=C([C:20](OC)=[O:21])/O>>[O-:21][C:20]1(OC)[O+:10]([Na])C(CCC)C(O)=C1O 10=20;20,21=21"
"[H][O+:10](C([H])C(C)C([H])[O]1)[C:20]1([O:21][H])[S]C.[Cl-]>>[Cl-].[H][O:10]C([H])C(C)C([H])[O][C:20]([S]C)=[O+:21][H] 21=20;20,10=10"
"CN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)CC)C1=CC=CC=C1)C>>CN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)CC)C1=CC=CC=C1)[O-:10])C 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C([H])[O]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]CC)[O][CH]([H])C([H])[CH]([H])[O]1 10=20;20,21=21"
"[H][S+:10](C([H])C([H])C(C)[O]1)[C:20]1([O:21][H])[O][H].[Cl-]>>[Cl-].[H][S:10]C([H])C([H])C(C)[O][C:20]([O][H])=[O+:21][H] 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)C1=CC=CC=C1)[H].[O-:21]CC>>C1=CC=CC=C1C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]CC)C1=CC=CC=C1)[H] 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([NH:21]CC)[NH][CH]([H])C(C)[CH]([H])[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH]([H])[CH](C)C([H])[NH]2.CC[O:10][H] 21=20;20,10=10"
"[H][NH:10]C(CC)C([H])[NH][C:20]([NH][H])=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(CC)C([H])[NH]1)[C:20]1([NH:21]C)[NH][H] 10=20;20,21=21"
"[O:20]=[C:21](O[H])OCCCCCC.CC[O:10][K]>>CC[O+:10]([K])[C:21]([O-:20])(O[H])OCCCCCC 10=21;21,20=20"
"CC[NH+:10]([H])[C:20]1([NH:21]C)[O][CH](C)C([H])[CH](C)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O][CH](C)[CH]([H])C(C)[O]2.CC[NH:10][H] 21=20;20,10=10"
